US03957922
Reaction of Pentachlorophenol - Pentaerythritol - Triethylphosphite - Propylene Oxide
A 5-liter flask was charged with 1330 grams of pentachlorophenol, containing about 750 ppm of aluminum and iron compounds, 680 grams of pentaerythritol and 290 grams of triethylphosphite. The mixture was stirred and heated and volatiles were removed until the temperature was 145°C. Propylene oxide was then added until the acid number was less than 1. Since some solid materials was present 253 grams of pentachlorophenol was added and propylene oxide addition was continued until the acid number was less than 1. The mixture was stripped to remove volatiles and filtered through a coarse paper. The resulting oxypropylated polyol product weighted 3398 grams and had the following properties:

reactant | pentachlorophenol | 1330 grams | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | aluminum | [Al] | Al
reactant | pentaerythritol | 680 grams | OCC(CO)(CO)CO | C5H12O4
reactant | triethylphosphite | 290 grams | C(C)OP(OCC)OCC | C6H15O3P
catalyst | iron | [Fe] | Fe
product | Pentachlorophenol Pentaerythritol - Triethylphosphite Propylene Oxide | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl.OCC(CO)(CO)CO.C(C)OP(OCC)OCC.C1C(C)O1 | InChI=1S/C6HCl5O.C6H15O3P.C5H12O4.C3H6O/c7-1-2(8)4(10)6(12)5(11)3(1)9;1-4-7-10(8-5-2)9-6-3;6-1-5(2-7,3-8)4-9;1-3-2-4-3/h12H;4-6H2,1-3H3;6-9H,1-4H2;3H,2H2,1H3
